US07601846B2
N-(4-Methyl-benzylidene)-N′-quinazolin-4-yl-hydrazine (30)
A solution of quinazolin-4-yl-hydrazine (Gewald et al., J. Prakt. Chem./Chem.-Ztg. 1996, 338, 206-213) (265 mg, 1.65 mmol) was refluxed with tolualdehyde (400 μl, 3.39 mmol) in methanol for 1 hour. The solvent was evaporated and the resulting solid was triturated with water and filtered to give a yellow powder in 87% yield: mp 211-214° C.; 1H-NMR (DMSO-d6) 2.37 (s, 3H), 7.29 (d, 2H), 7.47 (dt, 2H), 7.67 (t, 1H), 7.88 (d, 3H), 8.20 (m, 1H), 8.51 (s, 1H), 11.65 (s, 1H); HR-MS (EI) m/z 262.1223 (M+).

reactant | quinazolin-4-yl-hydrazine | 1.65 mmol, 265 mg | N1=CN=C(C2=CC=CC=C12)NN | C8H8N4
reactant | tolualdehyde | 3.39 mmol, 400 μl | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | methanol | CO | CH4O
product | N-(4-Methyl-benzylidene)-N′-quinazolin-4-yl-hydrazine | 87% yield | CC1=CC=C(C=NNC2=NC=NC3=CC=CC=C23)C=C1 | C16H14N4
